US04006145
22 g of 2-fluoro-10,11-dihydro-dibenzo[b,f]thiepin-10-one are suspended in 110 ml of ethanol and treated with 6.1 g of sodium borohydride. The mixture is heated under reflux for 10-15 minutes, then treated with water and extracted with chloroform. The organic phase is washed with water, dried over sodium sulphate and evaporated. There is obtained 2-fluoro-10,11-dihydro-dibenzo[b,f]thiepin-10-ol which melts at 110°-113° C.

reactant | 2-fluoro-10,11-dihydro-dibenzo[b,f]thiepin-10-one | 22 g | FC1=CC2=C(SC3=C(C(C2)=O)C=CC=C3)C=C1 | C14H9FOS
reactant | sodium borohydride | 6.1 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 110 ml | C(C)O | C2H6O
product | 2-fluoro-10,11-dihydro-dibenzo[b,f]thiepin-10-ol | FC1=CC2=C(SC3=C(C(C2)O)C=CC=C3)C=C1 | C14H11FOS
